US09029374B2
3,4-difluoroaniline (0.105 mL, 1.06 mmol) was reacted with 8-(1-bromoethyl)-N,N-dimethyl-2-morpholino-4-oxo-4H-chromene-6-carboxamide hydrobromide (130 mg, 0.27 mmol) using a procedure similar to the one described in Example 3.00 to give 8-(1-(3,4-difluorophenylamino)ethyl)-N,N-dimethyl-2-morpholino-4-oxo-4H-chromene-6-carboxamide (35.0 mg, 28.8%) as a white solid. Mass Spectrum: M+H+ 458. NMR Spectrum: (DMSOd6) 1.50 (d, 3H), 2.70 (s, 3H), 2.94 (s, 3H), 3.50-3.63 (m, 4H), 3.71-3.79 (m, 4H), 4.92-5.01 (m, 1H), 5.60 (s, 1H), 6.25 (d, 1H), 6.46 (ddd, 1H), 6.54 (d, 1H), 7.05 (dd, 1H), 7.54 (d, 1H), 7.78 (d, 1H).

reactant | 3,4-difluoroaniline | 1.06 mmol, 0.105 mL | FC=1C=C(N)C=CC1F | C6H5F2N
reactant | 8-(1-bromoethyl)-N,N-dimethyl-2-morpholino-4-oxo-4H-chromene-6-carboxamide hydrobromide | 0.27 mmol, 130 mg | Br.BrC(C)C=1C=C(C=C2C(C=C(OC12)N1CCOCC1)=O)C(=O)N(C)C
product | 8-(1-(3,4-difluorophenylamino)ethyl)-N,N-dimethyl-2-morpholino-4-oxo-4H-chromene-6-carboxamide | 35.0 mg, 28.8% | FC=1C=C(C=CC1F)NC(C)C=1C=C(C=C2C(C=C(OC12)N1CCOCC1)=O)C(=O)N(C)C | C24H25F2N3O4
